US07897597B2
(7-Benzyloxy-3-nitroquinolin-4-yl)-(2-phenoxyethyl)amine (14.24 g, 34.28 mmol) was dissolved in toluene (900 mL) with heating and added to a Parr vessel charged with 5% platinum on carbon (6.7 g, 34.28 mmol) and toluene (100 mL). The vessel was placed under hydrogen pressure (35 psi, 2.4×105 Pa) and shaken for two hours. The catalyst was removed by filtration and washed with hexanes and dichloromethane. The filtrate was concentrated under reduced pressure, and the residue was recrystallized from methanol, isolated by filtration, washed with hexanes, and dried under high vacuum to provide 13.82 g of 7-benzyloxy-N4-(2-phenoxyethyl)quinoline-3,4-diamine as a solid.

reactant | (7-Benzyloxy-3-nitroquinolin-4-yl)-(2-phenoxyethyl)amine | 34.28 mmol, 14.24 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCOC1=CC=CC=C1 | C24H21N3O4
solvent | toluene | 900 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 34.28 mmol, 6.7 g | [Pt] | Pt
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 7-benzyloxy-N4-(2-phenoxyethyl)quinoline-3,4-diamine | 13.82 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCCOC1=CC=CC=C1 | C24H23N3O2
